US06184245B2
Synthesis of Compound 16: 3-{2-(benzofuran-2-yl)}acetyl-4-hydroxy-coumarin
1.76 g (10.0 mmol) of 2-benzofuranacetic acid, 1.62 g (10.0 mmol) of 4-hydroxy-coumarin and 2.27 g (11.1 mmol) of DCC were suspended in 50 ml of chloroform, then 130 mg (1.06 mmol) of DMAP added and stirring carried out overnight at 60° C. The reaction liquid was then cooled to room temperature and the insoluble material filtered off. The mother liquor was concentrated and the residue purified by column chromatography. The solid obtained was recrystallized from ethanol and Compound 16 (460 mg, 1.43 mmol, 14%) obtained. This was converted to the sodium salt with an equivalent quantity of sodium hydrogen carbonate.

reactant | 2-benzofuranacetic acid | 10.0 mmol, 1.76 g | C=1(OC=C2C1C=CC=C2)CC(=O)O | C10H8O3
reactant | 4-hydroxy-coumarin | 10.0 mmol, 1.62 g | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | DCC | 11.1 mmol, 2.27 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | sodium | [Na] | Na
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | DMAP | 1.06 mmol, 130 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethanol | C(C)O | C2H6O
product | 3-{2-(benzofuran-2-yl)}acetyl-4-hydroxy-coumarin | O1C(=CC2=C1C=CC=C2)CC(=O)C=2C(OC1=CC=CC=C1C2O)=O | C19H12O5
